US07378415B2
A solution of 7-benzenesulfonyl-2,2-dimethyl-4-(1-methyl-piperidin-4-yl)-3,4-dihydro-2H-benzo[1,4]oxazine (0.119 g., 0.298 mmol) in 3 mL dichloroethane was cooled to 0° C. and α-chloroethyl chloroformate (0.033 mL, 0.312 mmol) was added dropwise with stirring over 1 minute. The reaction mixture was refluxed for 18 hours, concentrated in vacuo, and the residue dissolved in 20 mL methanol and refluxed for 1 hour. The reaction mixture was concentrated in vacuo and a vacuum of 0.5 Torr was applied for 30 minutes. The resulting residue was dissolved in 35 mL THF, to which was added di-tert-butyldicarbonate (0.065 g., 0.300 mmol) and the reaction mixture was stirred for 72 hours at room temperature. The reaction mixture was then concentrated in vacuo and purified by flash chromatography (15% ethyl acetate in hexanes) to afford 0.087 g (75%) of 7-benzenesulfonyl-2,2-dimethyl-4-piperidin-4-yl-3,4-dihydro-2H-benzo[1,4]oxazine as a waxy solid. MS: 387, mp: 284.9-296.3° C. (as hydrochloride salt).

reactant | 7-benzenesulfonyl-2,2-dimethyl-4-(1-methyl-piperidin-4-yl)-3,4-dihydro-2H-benzo[1,4]oxazine | 0.298 mmol, 0.119 g | C1(=CC=CC=C1)S(=O)(=O)C1=CC2=C(N(CC(O2)(C)C)C2CCN(CC2)C)C=C1 | C22H28N2O3S
reactant | α-chloroethyl chloroformate | 0.312 mmol, 0.033 mL | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | di-tert-butyldicarbonate | 0.300 mmol, 0.065 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloroethane | 3 mL | ClC(C)Cl | C2H4Cl2
product | 7-benzenesulfonyl-2,2-dimethyl-4-piperidin-4-yl-3,4-dihydro-2H-benzo[1,4]oxazine | 0.087 g, 75% | C1(=CC=CC=C1)S(=O)(=O)C1=CC2=C(N(CC(O2)(C)C)C2CCNCC2)C=C1 | C21H26N2O3S
